US05101059
To a mixture of 4.0 g of 9-xanthenemethanol and 3.0 mL of freshly distilled thionyl chloride in 30 mL of freshly distilled THF was added dropwise 1.7 mL of pyridine over a period of 15 minutes. The mixture was heated in an oil bath at 50° C. for 12 hours, cooled to room temperature, and washed with half sat'd brine (30 mL), sat'd NaHCO3 (30 mL) and water (2×30 mL). The organic layer was dried over MgSO4 and the solvent was evaporated in vacuo to give 4.16 g (95.7%) of the crude 9-chloromethylxanthene as an off-white solid. Recrystallization from CH3OH--CH2Cl2 (4:1) gave 3.53g (81.35%) of the pure 9-chloromethylxanthene as white needles, m.p. 104.5°-106° C.; 1H NMR (CDCl3 ):δ 3.67 (d, 2H, CH2), 4.32 (t, 1H, CH), 7.04-7.46 (m, 8H, aryl).

reactant | 9-xanthenemethanol | 4.0 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)CO | C14H12O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | THF | C1CCOC1 | C4H8O
solvent | pyridine | 1.7 mL | N1=CC=CC=C1 | C5H5N
product | 9-chloromethylxanthene | 4.16 g, 95.7% | ClCC1C2=CC=CC=C2OC=2C=CC=CC12 | C14H11ClO
